US09388185B2
Step 1. 2,4-difluoro-3-iodo-1,5-dimethoxybenzene
To a stirred slurry of 2,6-difluoro-3,5-dimethoxyaniline (1.00 g, 5.29 mmol) in 6.0 M hydrogen chloride in water (9.00 mL, 54.0 mmol), a solution of sodium nitrite (0.383 g, 5.55 mmol) in water (2 mL) was added dropwise over 15 minutes at 0° C. After another 15 minutes, the resulting orange-red slurry was added to a solution of potassium iodide (3.50 g, 21.1 mmol) in water (5 mL) in small portions at 0° C. After addition, the reaction mixture was allowed to warm to room temperature and then it was stirred for 1 hour. Solid precipitated which was filtered out. The solid was washed with water and dried under vacuum to give the desired product (1.15 g, 70%). 1H NMR (400 MHz, CDCl3): δ 6.68 (t, J=8.0 Hz, 1H), 3.88 (s, 6H) ppm.

reactant | 2,6-difluoro-3,5-dimethoxyaniline | 5.29 mmol, 1.00 g | FC1=C(N)C(=C(C=C1OC)OC)F | C8H9F2NO2
reactant | sodium nitrite | 5.55 mmol, 0.383 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 21.1 mmol, 3.50 g | [I-].[K+]
solvent | hydrogen chloride | 6.0 M | Cl | ClH
solvent | water | 2 mL | O | H2O
solvent | water | 5 mL | O | H2O
solvent | water | 54.0 mmol, 9.00 mL | O | H2O
product | 2,4-difluoro-3-iodo-1,5-dimethoxybenzene | 1.15 g, 70% | FC1=C(C=C(C(=C1I)F)OC)OC | C8H7F2IO2
